US07160586B2
Preparation of 4-[(4-cyanobenzoyl)oxy]phenyl 4-{[6-(acryloyloxy)hexyl]oxy}benzoate (7):
A reaction flask was charged with 11.08 g (0.038 moles) of 4-{[6-(acryloyloxy)hexyl]oxy}benzoic acid, 7.67 g (0.076 moles) of triethylamine and 110 g of ethylene glycol dimethyl ether. The solution was cooled to −30° C., and 4.34 g (0.038 moles) of methane sulfonyl chloride was added. After maintaining stirring at −30° C. for one additional hour, 9.09 g (0.038 moles) of intermediate 6 and 0.46 g (0.004 moles) of 4-(dimethylamino)pyridine were added. The resulting mixture was then warmed to room temperature, and then to 50° C. for three hours. Finally, the mixture was cooled to room temperature and diluted with 300 ml of water. The crude product was collected by filtration and washed with water. The product, 7, was purified by recrystallization from ethanol.

reactant | 4-{[6-(acryloyloxy)hexyl]oxy}benzoic acid | 0.038 moles, 11.08 g | C(C=C)(=O)OCCCCCCOC1=CC=C(C(=O)O)C=C1 | C16H20O5
reactant | triethylamine | 0.076 moles, 7.67 g | C(C)N(CC)CC | C6H15N
reactant | ethylene glycol dimethyl ether | 110 g | COCCOC | C4H10O2
reactant | methane sulfonyl chloride | 0.038 moles, 4.34 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | water | 300 ml | O | H2O
catalyst | 4-(dimethylamino)pyridine | 0.004 moles, 0.46 g | CN(C1=CC=NC=C1)C | C7H10N2
product | 4-[(4-cyanobenzoyl)oxy]phenyl 4-{[6-(acryloyloxy)hexyl]oxy}benzoate | C(C=C)(=O)OCCCCCCOC1=CC=C(C(=O)OC2=CC=C(C=C2)OC(C2=CC=C(C=C2)C#N)=O)C=C1 | C30H27NO7
